US08859606B2
3-{1-[2-(2-Ethyl-butoxy)-5-methyl-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid 84
A mixture of 3-{1-[5-Bromo-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester (0.1363 g, 0.31 mmol), Pd(dppf)Cl2 (0.00506 g, 0.00621 mmol), Zn(CH3)2 (0.31 mlg, 0.62 mmol in 1,4-dioxane (0.93 ml) heated at 105° C. under a N2 atmosphere for 1 h 50 min. The mixture was cooled to RT, quenched with MeOH (0.2 ml) and partitioned between 1M HCl and EtOAc. The organic layer was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was converted to the title compound following the method in Example 1, Step 8.

reactant | 3-{1-[5-Bromo-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester | 0.31 mmol, 0.1363 g | COC(CCC1=NN(C(=C1)C)CC1=C(C=CC(=C1)Br)OCC(CC)CC)=O | C21H29BrN2O3
reactant | Zn(CH3)2 | [Zn](C)C
solvent | 1,4-dioxane | 0.93 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.00621 mmol, 0.00506 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-{1-[2-(2-Ethyl-butoxy)-5-methyl-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid | C(C)C(COC1=C(CN2N=C(C=C2C)CCC(=O)O)C=C(C=C1)C)CC | C21H30N2O3
